US06306863B1
6-(2,3-Dihydro-1H-inden-2-yl)-5-[(3-hydroxypropyl)sulphonyl]-3-methyl-1-(1-methylethyl)-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione
The compound of Example 8, 6-(2,3-Dihydro-1H-inden-2-yl)-5-[(3-hydroxypropyl)sulphinyl]-3-methyl-1-(1-methylethyl)-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione (80 mg), was dissolved in dichloromethane (5 ml) and 3-chloroperoxybenzoic acid (57-85%) (50 mg) was added. The reaction mixture was stirred for 75 minutes then water and sodium metabisulphite (45 mg) were added and the mixture was stirred for 5 minutes. The phases were separated and the organic phase was washed with sodium bicarbonate (aqueous), then dried, filtered and evaporated. The resultant foam was recrystallised from isohexane-ethyl acetate-ether to give the title compound (15 mg).

reactant | 6-(2,3-Dihydro-1H-inden-2-yl)-5-[(3-hydroxypropyl)sulphinyl]-3-methyl-1-(1-methylethyl)-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | 80 mg | C1C(CC2=CC=CC=C12)N1C=C2N(C(N(C(C2=C1S(=O)CCCO)=O)C)=O)C(C)C | C22H27N3O4S
reactant | 3-chloroperoxybenzoic acid | 50 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | water | O | H2O
reactant | sodium metabisulphite | 45 mg | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 6-(2,3-Dihydro-1H-inden-2-yl)-5-[(3-hydroxypropyl)sulphonyl]-3-methyl-1-(1-methylethyl)-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | 15 mg | C1C(CC2=CC=CC=C12)N1C=C2N(C(N(C(C2=C1S(=O)(=O)CCCO)=O)C)=O)C(C)C | C22H27N3O5S
